US06500844B1
Step D: 1-(RS)-(N-(Methyl)-N-(benzoyl)amino)-3-(SR)-(formyl)-4-(SR)-phenylcyclopentane (Higher Rf isomer)
Oxalyl chloride (0.884 mL, 10.2 mmol) was dissolved in dichloromethane (30 mL) and chilled to −78°. Dimethylsulfoxide (1.44 mL, 10.3 mmol) was added slowly and the solution was aged 15 minutes. A solution of 1-(RS)-(N-(methyl)-N-(benzoyl)amino)-3-(SR)-(hydroxymethyl)-4-(SR)-phenylcyclopentane (1.26 g, 4.1 mmol), the higher Rf isomer from Step C, in methylene chloride (3 mL) was added slowly and the solution was aged for one hour. N,N-diisopropylethylamine (7.09 mL, 40.7 mmol) was added to the solution. After aging 10 minutes at −78°, the bath was removed and the solution was warmed to ambient temperature over one hour. The organic layers were washed sequentially with 1N HCl, water and brine, then dried over sodium sulfate and concentrated to afford the crude title compound which was essentially the same as Example 11, Step D.

reactant | Oxalyl chloride | 10.2 mmol, 0.884 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethylsulfoxide | 10.3 mmol, 1.44 mL | CS(=O)C | C2H6OS
reactant | 1-(RS)-(N-(methyl)-N-(benzoyl)amino)-3-(SR)-(hydroxymethyl)-4-(SR)-phenylcyclopentane | 4.1 mmol, 1.26 g | CN(C(C1=CC=CC=C1)=O)C1CC(C(C1)C1=CC=CC=C1)CO | C20H23NO2
reactant | N,N-diisopropylethylamine | 40.7 mmol, 7.09 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-(RS)-(N-(Methyl)-N-(benzoyl)amino)-3-(SR)-(formyl)-4-(SR)-phenylcyclopentane | CN(C(C1=CC=CC=C1)=O)C1CC(C(C1)C1=CC=CC=C1)C=O | C20H21NO2
